US09120793B2
2-[4-(3-Methanesulfonyl-propoxy)-2,6-dimethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic acid methyl ester
To a solution of 2-(4-hydroxy-2,6-dimethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic acid methyl ester (0.2 g, 0.673 mmol) in acetonitrile (5 mL) is added toluene-4-sulfonic acid 3-methanesulfonyl-propyl ester (0.196 g, 0.673 mmol) and potassium carbonate (0.278 g, 2.019 mmol) at room temperature and the reaction mixture is heated at 100° C. for 16 hours. The reaction mixture is diluted with water (10 mL) and extracted with EtOAc (2×20 mL). The combined organic extracts are washed with water (10 mL), brine (10 mL), dried over anhydrous Na2SO4, filtered, and evaporated to dryness. The crude material is purified by silica gel chromatography (combiflash purifier 24 g redisep column) and is eluted with 40-60% EtOAc in hexane to give the title compound as a light yellow solid (198 mg, 70%). LCMS m/z 418 [M+H]+.

reactant | 2-(4-hydroxy-2,6-dimethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic acid methyl ester | 0.673 mmol, 0.2 g | COC(=O)C=1C=CC=2N(C1)N=C(N2)C2=C(C=C(C=C2C)O)C | C16H15N3O3
reactant | toluene-4-sulfonic acid 3-methanesulfonyl-propyl ester | 0.673 mmol, 0.196 g | CS(=O)(=O)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H16O5S2
reactant | potassium carbonate | 2.019 mmol, 0.278 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | 2-[4-(3-Methanesulfonyl-propoxy)-2,6-dimethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic acid methyl ester | 198 mg, 70% | COC(=O)C=1C=CC=2N(C1)N=C(N2)C2=C(C=C(C=C2C)OCCCS(=O)(=O)C)C | C20H23N3O5S
